US05686486
1,3-Diphenylpropan-2-ol
To a stirring suspension of 1.10 g of lithium aluminum hydride in 50 mL of diethyl ether under an argon atmosphere at 0° C. is slowly added a solution of 5.30 g of commercially available 1,3-diphenylacetone in 10.0 mL of diethyl ether with a 10 mL rinse. After 0.25 hours the grey suspension is warmed to room temperature. After 1.5 hours the reaction mixture is re-cooled to 0° C. and slowly treated with 1.2 mL of water followed by 5.0 mL of 1N sodium hydroxide. After 1 hour the resulting white precipitant is filtered through a pad of magnesium sulfate with diethyl ether washings. The filtrate is concentrated under reduced pressure to afford 5.2 g, of the title product as a viscous, clear, colorless oil. This product may be used directly in the next reaction without further purification. Physical characteristics are as follows:

reactant | lithium aluminum hydride | 1.10 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1,3-diphenylacetone | C1(=CC=CC=C1)CC(=O)CC1=CC=CC=C1 | C15H14O
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 10.0 mL | C(C)OCC | C4H10O
product | 1,3-Diphenylpropan-2-ol | C1(=CC=CC=C1)CC(CC1=CC=CC=C1)O | C15H16O
